US04196300
To a solution of 0.2 g of 2-tetradecylglycidic acid (0.0007 mole) in 10 ml of anhydrous THF at 0° C. (ice-water bath) with stirring is added 0.070 g of triethylamine (0.0007 mole) in a small amount of THF. The solution is stirred at 0° for 30 minutes and 76 mg. of ethyl chloroformate (0.0007 mole) in a small amount of THF is added. The mixture is stirred at about 0° C. (ice-water bath) for 3 hours (ppt. of Et3NHCl observed). At the end of 3 hours 0.042 g. (0.0007 mole) of ethanolamine in THF is added. The mixture is stirred at room temperature for 16 hours. The THF solvent is concentrated to about 1/3 its volume, water is added and the mixture extracted with ether. The ether extract is dried over Na2SO4 and the ether solvent removed to give a white solid of N-(2-hydroxyethyl)-2-tetradecylglycidamide which, upon recrystallization from acetone has a m.p. of 80°-82° C.

reactant | 2-tetradecylglycidic acid | 0.0007 mole, 0.2 g | CC(CCCCCCCCCCCC)C1(C(=O)O)CO1 | C17H32O3
reactant | triethylamine | 0.0007 mole, 0.070 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.0007 mole | ClC(=O)OCC | C3H5ClO2
reactant | ethanolamine | 0.0007 mole | C(O)CN | C2H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(2-hydroxyethyl)-2-tetradecylglycidamide | OCCNC(C1(CO1)C(C)CCCCCCCCCCCC)=O | C19H37NO3
